US07612075B2
A. 4-(5-Chloro-thiophen-2-ylmethylene)-2-methyl-4H-oxazol-5-one.
A mixture consisting of 5-chlorothiophene-2-carboxaldehyde (1.00 g, 6.82 mmol), N-acetylglycine (0.96 g, 8.18 mmol), NaOAc (0.67 g, 8.18 mmol) in Ac2O (5 mL) is warmed at reflux for 16 hours. The reaction mixture is cooled to ambient temperature and diluted with dilute aqueous NaOH (0.5 M, 100 mL) and CH2Cl2 (100 mL). The layers are separated and the organic phase is washed with aqueous NaHCO3, brine, dried over anhydrous Na2SO4, filtered and concentrated to provide 1.5 g (100%) of the title compound as a colorless oil which is used without further purification in the next reaction. 1H NMR (300 MHz, CDCl3) δ2.39 (s, 3H), 6.94 (d, J=4.0 Hz, 1H), 7.21 (s, 1H), 7.26 (d, J=4.0 Hz, 1H) ppm.

reactant | 5-chlorothiophene-2-carboxaldehyde | 6.82 mmol, 1.00 g | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | N-acetylglycine | 8.18 mmol, 0.96 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | NaOAc | 8.18 mmol, 0.67 g | CC(=O)[O-].[Na+]
solvent | Ac2O | 5 mL | CC(=O)OC(=O)C | C4H6O3
solvent | NaOH | 0.5 M, 100 mL | [OH-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-Chloro-thiophen-2-ylmethylene)-2-methyl-4H-oxazol-5-one | 1.5 g, 100% | ClC1=CC=C(S1)C=C1N=C(OC1=O)C | C9H6ClNO2S
